US08835420B2
2,4-Diamino-6-((1-(1-methyl-6-(2-oxa-6-azaspiro[3.3]heptan-6-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
To a 10 mL vial were added 1-(1-methyl-6-(2-oxa-6-azaspiro[3.3]heptan-6-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (81 mg, 0.30 mmol), 2,4-diamino-6-chloropyrimidine-5-carbonitrile (50.4 mg, 0.297 mmol) and Et3N (0.083 mL, 0.60 mmol) in DMF (2 mL). The resulting yellow solution was heated to 90° C. and stirred for 5 hours. The reaction mixture was diluted with EtOAc and washed with saturated NH4Cl (3×). The combined organic layers were dried over MgSO4, filtered, and concentrated. The desired compound was precipitated with ether, filtered, and purified by silica gel column chromatography, eluting with 1:1 EtOAc/hexane to 100% EtOAc to 9:1 EtOAc/MeOH gradient. The resulting yellow foam was further purified by preparative HPLC eluting with 20-40% ACN in water (with 0.05% ammonium bicarbonate). The fractions containing the product were combined and lyophilized to give the title compounds (racemate) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.28-1.40 (m, 3 H), 3.71-3.82 (m, 3 H), 3.96-4.07 (m, 2 H), 4.14-4.25 (m, 2 H), 4.72-4.85 (m, 4 H), 5.44-5.58 (m, 1 H), 6.37-6.45 (m, 1 H), 6.45-6.55 (m, 2H), 6.55-6.66 (m, 2 H), 6.68-6.79 (m, 1 H), 7.08-7.16 (m, 1 H), 7.37-7.45 (m, 1 H); ESI-MS m/z [M+H]+ calc'd for C20H23N9O, 406.2; found 406.5.

reactant | 1-(1-methyl-6-(2-oxa-6-azaspiro[3.3]heptan-6-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 0.30 mmol, 81 mg | CN1C=CC2=NC(=C(C=C21)N2CC1(COC1)C2)C(C)N | C15H20N4O
reactant | 2,4-diamino-6-chloropyrimidine-5-carbonitrile | 0.297 mmol, 50.4 mg | NC1=NC(=C(C(=N1)N)C#N)Cl | C5H4ClN5
reactant | Et3N | 0.60 mmol, 0.083 mL | CCN(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,4-Diamino-6-((1-(1-methyl-6-(2-oxa-6-azaspiro[3.3]heptan-6-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)N)C#N)NC(C)C1=C(C=C2C(=N1)C=CN2C)N2CC1(COC1)C2 | C20H23N9O
